US09145414B2
Diphenylphosphoryl azide (4.15 mL) and triethylamine (3.76 mL) were added to a solution of 2-cyclobutyl-2H-indazole-5-carboxylic acid obtained in the above-described Step 1 (3.26 g) in 1,4-dioxane (50 mL), and the reaction solution was stirred at room temperature for 2 hours and 20 minutes. Thereafter, 1 N hydrochloric acid (100 mL) was added to the reaction solution, and then the reaction solution was stirred at 100° C. for 30 minutes. The reaction solution was cooled to room temperature, and potassium carbonate (14 g) was slowly added. The reaction solution was extracted with ethyl acetate, and then the organic layer was washed with a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 2-cyclobutyl-2H-indazol-5-amine as a light yellow solid.

reactant | Diphenylphosphoryl azide | 4.15 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-cyclobutyl-2H-indazole-5-carboxylic acid | C1(CCC1)N1N=C2C=CC(=CC2=C1)C(=O)O | C12H12N2O2
reactant | hydrochloric acid | 1 N, 100 mL | Cl | ClH
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | triethylamine | 3.76 mL | C(C)N(CC)CC | C6H15N
product | 2-cyclobutyl-2H-indazol-5-amine | C1(CCC1)N1N=C2C=CC(=CC2=C1)N | C11H13N3
